US07468457B2
f. Preparation of 1-(6-Benzyloxy-5-tert-butyl-4′-methyl-3-biphenylyl)prop-2-yn-1-ol
780 mg (2.2 mmol) of 6-benzyloxy-5-tert-butyl-4′-methyl-3-biphenylcarbaldehyde are dissolved in 50 mL of THF, and the reaction medium is cooled to 0° C. 5.7 mL (2.8 mmol) of 0.5 M ethynylmagnesium bromide solution are added slowly. The medium is stirred at 0° C. for 2 hours and the reaction is then treated with a saturated ammonium chloride solution. The residue obtained is purified by chromatography on a column of silica (eluent: 9 heptane/1 ethyl acetate). A yellow oil is obtained (m=740 mg; yield=89%).

reactant | 6-benzyloxy-5-tert-butyl-4′-methyl-3-biphenylcarbaldehyde | 2.2 mmol, 780 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C1=CC=C(C=C1)C)C=O)C(C)(C)C | C25H26O2
reactant | ethynylmagnesium bromide | 2.8 mmol, 0.5 M, 5.7 mL | C(#C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(6-Benzyloxy-5-tert-butyl-4′-methyl-3-biphenylyl)prop-2-yn-1-ol | yield=89% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C1=CC=C(C=C1)C)C(C#C)O)C(C)(C)C | C27H28O2
